US08383644B2
(S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-(1-methyl-1H-pyrazole-3-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)phenyl]-propionic acid
(S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester (30 mg) was reacted with 1-methyl-1H-pyrazole-3-carboxylic acid in DCM (3.0 mL) according to General Procedure A and directly purified over silica (hexanes to 1:1 hexanes EtOAc to 1:1 hexanes EtOAc+1% MeOH). The resulting compound was hydrolyzed according to General Procedure B to give the title compound (15 mg). LCMS (m/z): 847.

reactant | (S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester | 30 mg | COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H39Cl2N3O6
reactant | 1-methyl-1H-pyrazole-3-carboxylic acid | CN1N=C(C=C1)C(=O)O | C5H6N2O2
solvent | DCM | 3.0 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-(1-methyl-1H-pyrazole-3-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)phenyl]-propionic acid | 15 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)C(=O)C3=NN(C=C3)C)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C3=C(C(=NC=C3)C)C)OC2)C=CC1Cl | C46H41Cl2N5O7
